US04127717
(A) 5-[3-(Dimethylamino)propyl]-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol
3-(Dimethylamino)propyl chloride (110 g) is dissolved in 600 ml of tetrahydrofuran. About 10% of this solution is added to the reaction flask containing 26.4 g of magnesium and 50 ml of tetrahydrofuran. The mixture is heated to reflux and reaction is initiated with ethylene dibromide. The remaining halide is added slowly (over about 30 minutes) to control the rate of reflux. The mixture is then heated under reflux for an additional 30 minutes. After cooling in an ice bath, 100 g of dibenzosuberone in 200 ml of tetrahydrofuran is added slowly (over about 30 minutes). The mixture is heated under reflux for 1.5 hours. After cooling in an ice bath, the mixture is decomposed by dropwise addition of saturated ammonium chloride solution (1 liter added in 2 hours). The mixture is stirred for an additional hour, the layers are separated and the aqueous layer is reextracted with ether. The combined organic layers are dried over magnesium sulfate, filtered and the solvent is removed in vacuo. The residue is dissolved in ether and extracted with 10% hydrochloric acid. The aqueous layer is basified with sodium hydroxide and extracted twice with ether. The ether extracts are dried, filtered, and the solvent is removed in vacuo leaving 103 g of a solid.

reactant | 3-(Dimethylamino)propyl chloride | 110 g | CN(CCCCl)C | C5H12ClN
reactant | magnesium | 26.4 g | [Mg] | Mg
reactant | ethylene dibromide | C(CBr)Br | C2H4Br2
reactant | dibenzosuberone | 100 g | C1CC2=CC=CC=C2C(=O)C3=CC=CC=C31 | C15H12O
reactant | ammonium chloride | 1 liter | [Cl-].[NH4+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-[3-(Dimethylamino)propyl]-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol | 103 g | CN(CCCC1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)O)C | C20H25NO
